US09340506B2
[3-(2-aminothiazol-5-yl)oxyphenyl]methanol
Ethyl 3-(2-aminothiazol-5-yl)oxybenzoate (Preparation 20; 2.0 g, 7,575 mmol) in 20 mL of dry THF was added slowly to stirring suspension of lithium aluminium hydride (0.287 g, 7.575 mmol) in 20 mL of dry THF in inert atmosphere and at 0° C. After complete addition the reaction was allowed to stir at room temperature for 3 hrs. TLC showed complete consumption of ethyl 3-(2-aminothiazol-5-yl)oxybenzoate. To the reaction mixture saturated NH4Cl solution was added and the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to get the crude product which was taken as it was for next reaction without purification (1.74 g).

reactant | Ethyl 3-(2-aminothiazol-5-yl)oxybenzoate | 7,575 mmol, 2.0 g | NC=1SC(=CN1)OC=1C=C(C(=O)OCC)C=CC1 | C12H12N2O3S
reactant | lithium aluminium hydride | 7.575 mmol, 0.287 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [3-(2-aminothiazol-5-yl)oxyphenyl]methanol | NC=1SC(=CN1)OC=1C=C(C=CC1)CO | C10H10N2O2S
